US07345058B2
To a stirred solution of 1-methyl-5-pyrrol-1-yl-1H-pyrazole-4-carboxylic acid (7.65 g, 40 mmol) in dry dichloromethane (150 mL) and pyridine (3.2 mL, 40 mmol) under a nitrogen atmosphere was added cyanuric fluoride (5.4 g, 40 mmol) at 0° C. The reaction mixture was stirred for two hours during which time the reaction temperature was allowed to rise to room temperature. Crushed ice was then added along with additional dichloromethane. The organic layer was separated and the aqueous layer was extracted twice with dichloromethane. Concentration of the combined organic layers under reduced pressure gave 1-methyl-5-pyrrol-1-yl-1H-pyrazole-4-carbonyl fluoride which was used in the next step without further purification.

reactant | 1-methyl-5-pyrrol-1-yl-1H-pyrazole-4-carboxylic acid | 40 mmol, 7.65 g | CN1N=CC(=C1N1C=CC=C1)C(=O)O | C9H9N3O2
reactant | pyridine | 40 mmol, 3.2 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 40 mmol, 5.4 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-methyl-5-pyrrol-1-yl-1H-pyrazole-4-carbonyl fluoride | CN1N=CC(=C1N1C=CC=C1)C(=O)F | C9H8FN3O
